US07199244B2
Preparation VI—N-[6-(1-Piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-2-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-2-yl)-acetamide
To a solution of 2-piperidin-2-yl-N-[6-(1-piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-acetamide (155.8 mg, 0.39 mmol) in CH2Cl2(2 mL) was added 3-(trifluoromethyl)benzenesulfonyl chloride (Fluka, 0.1 mL, 0.59 mmol) and Et3N (Aldrich, 0.1 mL, 0.79 mmol). The mixture was stirred at rt overnight, diluted with CH2Cl2 (30 mL), washed with 10% Na2CO3 (twice) and brine. The organic solution was dried over Na2SO4, filtered and concentrated in vacuo. The crude was purified by silica gel chromatography (3%–10% MeOH—CH2Cl2) to provide the title compound. MS (ESI): 604 (M+H)+. Calc'd for C32H40F3N3O3S—603.27.

reactant | 2-piperidin-2-yl-N-[6-(1-piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-acetamide | 0.39 mmol, 155.8 mg | N1C(CCCC1)CC(=O)NC1CCCC2=CC(=CC=C12)C(=C)CN1CCCCC1 | C25H37N3O
reactant | 3-(trifluoromethyl)benzenesulfonyl chloride | 0.59 mmol, 0.1 mL | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | Et3N | 0.79 mmol, 0.1 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-[6-(1-Piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-2-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-2-yl)-acetamide | N1(CCCCC1)CC(=C)C=1C=C2CCCC(C2=CC1)NC(CC1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C32H40F3N3O3S
